US04876359
In 5 ml of an ethyl acetate solution saturated with hydrochloric acid, 1.66 g of N-(2-oxo-3-tetrahydrofuranyl)-L-alanine t-butyl ester was dissolved. The resultant solution was stirred for 3 hours at room temperature. Crystals which had precipitated were collected by filtration. After washing the crystals with ethyl acetate and then with ether, they were dried to obtain 1.31 g of N-(2-oxo-3-tetrahydrofuranyl)-L-alanine hydrochloride as colorless crystals.

reactant | N-(2-oxo-3-tetrahydrofuranyl)-L-alanine t-butyl ester | 1.66 g | C(C)(C)(C)OC([C@@H](NC1C(OCC1)=O)C)=O | C11H19NO4
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | N-(2-oxo-3-tetrahydrofuranyl)-L-alanine hydrochloride | 1.31 g | Cl.O=C1OCCC1N[C@@H](C)C(=O)O | InChI=1S/C7H11NO4.ClH/c1-4(6(9)10)8-5-2-3-12-7(5)11;/h4-5,8H,2-3H2,1H3,(H,9,10);1H/t4-,5?;/m0./s1
